US09376422B2
Step 3: Synthesis of methyl 2-bromo-5-chloro-3-(oxan-4-ylamino)benzoate
To a solution of methyl 3-amino-2-bromo-5-chlorobenzoate (1.0 g, 3.8 mmol) in 1,2-dichloroethane (15 ml) at room temperature under nitrogen was added oxan-4-one (0.7 ml, 7.6 mmol) followed by acetic acid (1.3 ml, 23 mmol). This solution was stirred for 5 minutes before the addition of sodium triacetoxyborohydride (2.4 g, 11 mmol) at room temperature. After 21 h, additional oxan-4-one (0.7 ml, 7.6 mmol) was added to the reaction mixture, with stirring for 10 minutes before adding sodium triacetoxyborohydride (2.4 g, 11 mmol). After stirring for 20 h, deionized water (30 ml) was added and the mixture was neutralised with solid NaHCO3. The phases were separated and the aqueous layer was extracted with EtOAc (2×30 ml). The combined organic extracts were dried over MgSO4, filtered and concentrated under reduced pressure. The residue was purified by FCC (25 g silica, Isolute cartridge, gradient of eluents; 9:1 Heptane:EtOAc to 8:2 Heptane:EtOAc) to give 903 mg (68%) of the title compound as a white solid. LC-MS 92%, 2.11 min (3 minute LC-MS method), m/z=348.2/350.2/351.9, 1H NMR (500 MHz, Chloroform-d) δ 6.94-7.07 (1H, m), 6.70 (1H, d, J=2.36 Hz), 4.72 (1H, d, J=7.57 Hz), 3.96-4.15 (2H, m), 3.87-3.96 (3H, m), 3.40-3.67 (3H, m), 2.05 (2H, d, J=13.08 Hz), 1.49-1.69 (2H, m).

reactant | methyl 3-amino-2-bromo-5-chlorobenzoate | 3.8 mmol, 1.0 g | NC=1C(=C(C(=O)OC)C=C(C1)Cl)Br | C8H7BrClNO2
reactant | oxan-4-one | 7.6 mmol, 0.7 ml | O1CCC(CC1)=O | C5H8O2
reactant | acetic acid | 23 mmol, 1.3 ml | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 11 mmol, 2.4 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | oxan-4-one | 7.6 mmol, 0.7 ml | O1CCC(CC1)=O | C5H8O2
reactant | sodium triacetoxyborohydride | 11 mmol, 2.4 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | 1,2-dichloroethane | 15 ml | ClCCCl | C2H4Cl2
solvent | water | 30 ml | O | H2O
product | methyl 2-bromo-5-chloro-3-(oxan-4-ylamino)benzoate | 903 mg, 68% | BrC1=C(C(=O)OC)C=C(C=C1NC1CCOCC1)Cl | C13H15BrClNO3
